US07294625B2
4-(2-Cyclopentylcarbonylaminopyridin-4-yl)-3-(4-fluorophenyl)-1-([1,2,4]triazolo[4,3-b]pyridazin-6-yl)-1H-pyrazole (Exemplary Compound No. 2-974)
The reaction was carried out in the same manner as in Example 9 except for using 2.00 g (5.37 mmol) of 4-(2-aminopyridin-4-yl)-3-(4-fluorophenyl)-1-([1,2,4]triazolo-[4,3-b]pyridazin-6-yl)-1H-pyrazole obtained by the same reaction as in Example 8-2), and using 1.07 g (8.06 mmol) of cyclopentylcarbonyl chloride in place of acetic anhydride to obtain 219 mg of the title compound as a white powder. (Yield: 9%)

reactant | 4-(2-aminopyridin-4-yl)-3-(4-fluorophenyl)-1-([1,2,4]triazolo-[4,3-b]pyridazin-6-yl)-1H-pyrazole | 5.37 mmol, 2.00 g | NC1=NC=CC(=C1)C=1C(=NN(C1)C=1C=CC=2N(N1)C=NN2)C2=CC=C(C=C2)F | C19H13FN8
reactant | cyclopentylcarbonyl chloride | 8.06 mmol, 1.07 g | C1(CCCC1)C(=O)Cl | C6H9ClO
product | 4-(2-Cyclopentylcarbonylaminopyridin-4-yl)-3-(4-fluorophenyl)-1-([1,2,4]triazolo[4,3-b]pyridazin-6-yl)-1H-pyrazole | 219 mg, Yield: 9% | C1(CCCC1)C(=O)NC1=NC=CC(=C1)C=1C(=NN(C1)C=1C=CC=2N(N1)C=NN2)C2=CC=C(C=C2)F | C25H21FN8O
